US07608677B2
To a stirred EtOH (4 mL) solution containing N-toluenesulfonyl-2-(4-(trifluoroacetylamino)benzoyl)pyrrole (0.500 g, 1.15 mmol), was added 40% KOH solution (2 mL) and the mixture was heated at reflux until thin layer chromatography (TLC) analysis showed complete conversion of the starting material. The resulting solution was cooled to room temperature and diluted with EtOAc (20 mL), and the mixture was evaporated to dryness. The crude product was purified by column chromatography (SiO2, EtOAc:Hexanes) to afford the purified product 2-(4-aminobenzoyl)pyrrole (196 mg, 94% yield). 1H NMR (400 MHz, CD2Cl2, 25° C.) δ4.19 (bs, 2H), 6.33 (m, 1H), 6.72 (d, 2H), 6.88 (m, 1H), 7.10 (m, 1H), 7.82 (d, 2H), 9.90 (bs, 1H); 13C NMR (100 MHz, CD2Cl2, 25° C.) δ110.9, 114.2, 118.0, 124.5, 128.5, 131.8, 131.9, 151.3, 183.5; HRMS (EI): m/z 186.0793 (100) {M}+.

reactant | EtOH | 4 mL | CCO | C2H6O
reactant | N-toluenesulfonyl-2-(4-(trifluoroacetylamino)benzoyl)pyrrole | 1.15 mmol, 0.500 g | C=1(C(=CC=CC1)S(=O)(=O)N1C(=CC=C1)C(C1=CC=C(C=C1)NC(C(F)(F)F)=O)=O)C | C20H15F3N2O4S
reactant | KOH | 2 mL | [OH-].[K+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-(4-aminobenzoyl)pyrrole | 196 mg, 94% yield | NC1=CC=C(C(=O)C=2NC=CC2)C=C1 | C11H10N2O
